* My Negative Coeficient Temperature Coefficient Resitors

* Thermistor commonly used in 3D Printers
* For Marlin, is thermistor model 5
* ATC Semitec 104GT-2/104NT-4-R025H42G
* Ctrl is the temperature input, 1V = 1degC
.subckt Thermistor100Kbeta4267 T1 T2 Ctrl
.param R25=100K
.param Beta=4267
R1 T1 T2 R={R25*exp(Beta*(1/(V(Ctrl)+273.15)-1/(25+273.15)))}
.ends



.subckt Thermistor100Kbeta3950 T1 T2 Ctrl
.param R25=100K
.param Beta=3950
R1 T1 T2 R={R25*exp(Beta*(1/(V(Ctrl)+273.15)-1/(25+273.15)))}
.ends
